US06403825B1
German Pat. No. 1 041 944 describes a process in which a citric acid ester is said to be prepared from a crude citric acid broth. Specifically, the authors describe a process for producing an ester of citric acid, in which a raw 30% citric acid broth is dehydrated with benzene and ethanol to a syrup. Butanol and butyl acetate, along with a tin catalyst, are added to the syrup and the mixture is heated to a temperature of 140-160° C., whereupon the reaction is halted with potassium hydroxide. The resulting reaction product is washed with sodium carbonate in water, and the crude mixture distilled. The authors report yielding acetyl tributyl citrate in the recovered material.

reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | ethanol | C(C)O | C2H6O
reactant | potassium hydroxide | [OH-].[K+]
catalyst | tin | [Sn] | Sn
solvent | butyl acetate | C(C)(=O)OCCCC | C6H12O2
solvent | Butanol | C(CCC)O | C4H10O
product | acetyl tributyl citrate | CCCCOC(=O)CC(CC(=O)OCCCC)(C(=O)OCCCC)OC(=O)C | C20H34O8
